US09388189B2
(S)-4-Amino-6-((1-(5-(3-methoxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile
(S)-2-(1-Aminoethyl)-5-(3-methoxybenzyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (120 mg, 0.29 mmol) was treated with 4-amino-6-chloropyrimidine-5-carbonitrile (49 mg, 0.32 mmol), and N,N-diisopropylethylamine (152 μl, 0.87 mmol) in tert-butanol according to the method described in Example 17. The crude was purified by reverse phase using SP1® Purification System to give 82 mg (57% yield) of the title compound as solid. Purity 99%.

reactant | (S)-2-(1-Aminoethyl)-5-(3-methoxybenzyl)-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.29 mmol, 120 mg | N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)CC2=CC(=CC=C2)OC | C22H22N4O2
reactant | 4-amino-6-chloropyrimidine-5-carbonitrile | 0.32 mmol, 49 mg | NC1=NC=NC(=C1C#N)Cl | C5H3ClN4
reactant | N,N-diisopropylethylamine | 0.87 mmol, 152 μl | C(C)(C)N(C(C)C)CC | C8H19N
solvent | tert-butanol | C(C)(C)(C)O | C4H10O
product | (S)-4-Amino-6-((1-(5-(3-methoxybenzyl)-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)pyrimidine-5-carbonitrile | 82 mg, 57% yield | NC1=NC=NC(=C1C#N)N[C@@H](C)C1=NN2C(C(N1C1=CC=CC=C1)=O)=C(C=C2)CC2=CC(=CC=C2)OC | C27H24N8O2
